US08541404B2
To a solution of (2-amino-5-bromophenyl)methanol (772 mg, 3.8 mmol) in 15 ml THF was added triphosgene (1.03 g, 3.8 mmol) under nitrogen. After precipitation of a colorless solid, stirring was continued for 20 min before water was added. The solution was extracted several times with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4 and evaporated, affording 6-bromo-1H-benzo[d][1,3]oxazin-2(4H)-one (830 mg, 3.64 mmol, 96%) as colorless solid.

reactant | (2-amino-5-bromophenyl)methanol | 3.8 mmol, 772 mg | NC1=C(C=C(C=C1)Br)CO | C7H8BrNO
reactant | triphosgene | 3.8 mmol, 1.03 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 6-bromo-1H-benzo[d][1,3]oxazin-2(4H)-one | 3.64 mmol, 830 mg, 96% | BrC1=CC2=C(NC(OC2)=O)C=C1 | C8H6BrNO2
